US06555556B1
4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-5-carbamoyl-3-chloroaniline
To a solution of 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-5-carbamoyl-3-chloronitrobenzene (2.2 g) in acetic acid (100 ml) was added tin powder (9.9 g) and the mixture was stirred at room temperature for 11 hours. The reaction mixture was filtered through Celite (trade mark) and the filtrate was concentrated in vacuo. The residual pale yellow solid was dissolved in aqueous potassium carbonate and extracted with ethyl acetate. The extract was washed with water and brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and the filtrate concentrated in vacuo to give the desired compound (1.7 g, yield 83%) as a yellow amorphous solid.

reactant | 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-5-carbamoyl-3-chloronitrobenzene | 2.2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1C(N)=O)[N+](=O)[O-])Cl | C17H22ClN3O6
reactant | tin | 9.9 g | [Sn] | Sn
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-5-carbamoyl-3-chloroaniline | 1.7 g, yield 83% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(N)C=C1C(N)=O)Cl | C17H24ClN3O4
